US07151105B2
Step 1: N-(4-Bromo-2-ethyl-phenyl)-methanesulfonamide
4-Bromo-2-ethyl-aniline (2 mL, 14 mmol) dissolved in anhydrous pyridine (35 mL) at toom temperature was treated with methylsulfonyl chloride (1.3 mL, 16.8 mmol). The reaction was stirred at that temperature for 15 hours before it was diluted with EtOAc. The mixture was washed with H2O, brine and dried over MgSO4. The solvent was removed in vacuo and the residue was purified with flash chromatography (SiO2, 5–30% EtOAc in hexanes) to afford the desired product (3.1 g, 81% yield). 1H NMR (300 MHz, CDCl3): δ 1.25 (t, J=7.5 Hz, 3 H), 2.61–2.68 (m, 2 H), 3.02 (s, 3 H), 6.36 (s, 1 H), 7.36–7.39 (m, 3 H).

reactant | 4-Bromo-2-ethyl-aniline | 14 mmol, 2 mL | BrC1=CC(=C(N)C=C1)CC | C8H10BrN
reactant | methylsulfonyl chloride | 16.8 mmol, 1.3 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 35 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-Bromo-2-ethyl-phenyl)-methanesulfonamide | 3.1 g, 81% yield | BrC1=CC(=C(C=C1)NS(=O)(=O)C)CC | C9H12BrNO2S
